US07659245B2
Ethenesulfonic acid 4-chloro-2-methylphenyl ester (105)
To a stirred mixture of 4-chloro-2-methylphenol (24.7 g, 173 mmol) in acetone (10 ml), dichloroethane (25 ml) and water (45 ml) at 0-5° C. was added drop wise simultaneously 2-chloro-1-ethane sulfonyl chloride (28.2 g, 173 mmol) and a solution of 25% sodium hydroxide (60 g) during approximately one hour. The mixture was stirred for one hour at Sand for one hour at room temperature. Water was added and the mixture was extracted twice with DCM. The organic phase was dried with sodium sulphate, filtered and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel eluted with hexane-ethyl acetate which gave the title compound (33.4 g, 83%).

reactant | 4-chloro-2-methylphenol | 173 mmol, 24.7 g | ClC1=CC(=C(C=C1)O)C | C7H7ClO
reactant | 2-chloro-1-ethane sulfonyl chloride | 173 mmol, 28.2 g | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
reactant | sodium hydroxide | 60 g | [OH-].[Na+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | dichloroethane | 25 ml | ClC(C)Cl | C2H4Cl2
solvent | water | 45 ml | O | H2O
product | Ethenesulfonic acid 4-chloro-2-methylphenyl ester | 33.4 g, 83% | ClC1=CC(=C(C=C1)OS(=O)(=O)C=C)C | C9H9ClO3S
